US08114865B2
Preparation of 4-nitro-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzoic acid
To 30 mL of trifluoroacetic anhydride was added 4-nitro-2-(tetrahydro-pyran-4-ylamino)-benzoic acid (9.1 g, 34.2 mmol) in small portions, at room temperature. The mixture was stirred at room temperature for 1 hour then evaporated to dryness. The residue (brown oil) was treated with 200 mL of water and vigorously stirred for 3 hours at room temperature. The white solid thus formed was filtered, washed with plenty of water and dried in oven at 40° C. affording the title compound (11.8 g).

reactant | 4-nitro-2-(tetrahydro-pyran-4-ylamino)-benzoic acid | 34.2 mmol, 9.1 g | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)NC1CCOCC1 | C12H14N2O5
reactant | trifluoroacetic anhydride | 30 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-nitro-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzoic acid | 11.8 g | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)N(C(C(F)(F)F)=O)C1CCOCC1 | C14H13F3N2O6
